US09315521B2
2-{[(1-ethyl-1H-pyrazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (150 mg, 600 μmol) was stirred in methanol (20 mL) and a solution of 4 N HCl in dioxane (225 μL, 900 μmol) was added dropwise at 0° C. The mixture was stirred for 30 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford 2-{[(1-ethyl-1H-pyrazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride (170 mg, 100% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.30 (t, J=7.0 Hz, 3H), 2.21 (s, 3H), 4.15 (q, J=7.0 Hz, 2H), 4.50 (s, 2H), 6.11 (s, 1H), 6.25 (d, J=1.7 Hz, 1H), 7.37 (d, J=1.7 Hz, 1H); LRMS (ES+) m/z 251 (50%, M+1).

reactant | 2-{[(1-ethyl-1H-pyrazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 600 μmol, 150 mg | C(C)N1N=CC=C1CSC1=NC(=CC(=N1)O)C | C11H14N4OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 900 μmol, 225 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | 2-{[(1-ethyl-1H-pyrazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride | 170 mg, 100% yield | Cl.C(C)N1N=CC=C1CSC1=NC(=CC(=N1)O)C | InChI=1S/C11H14N4OS.ClH/c1-3-15-9(4-5-12-15)7-17-11-13-8(2)6-10(16)14-11;/h4-6H,3,7H2,1-2H3,(H,13,14,16);1H
